datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[N:8]([H:9])[H:10]>>[C:0](=[N:1][C:2]([H:6])[H:7])([H:3])[H:4].[H:5][N:8]([H:9])[H:10],4.47688
[C:0]([S:1][S:2][H:6])([H:3])([H:4])[H:5].[C:7]([H:8])([H:9])[H:10]>>[C:0]([S:1])([H:3])([H:4])[H:5].[S:2]([H:6])[C:7]([H:8])([H:9])[H:10],17.1544
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])=[C:7]([C:8](=[C:9]([H:23])[H:24])[H:22])[H:21])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([C:6]([H:18])([H:19])[H:20])[C:7]1([C:8](=[C:9]([H:23])[H:24])[H:22])[H:21])[H:12])([H:10])[H:11],98.9516
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[S:15]=[C:16]([C:17]([S:18][H:21])[H:20])[H:19]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][C:17]([C:16](=[S:15])[H:19])([S:18][H:21])[H:20],97.4872
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:17])([H:15])[H:16])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])[C:6]1([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:11])([H:9])[H:10],175.184
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:11](=[C:12]([H:14])[H:15])[H:13])[C:4]([H:8])([H:9])[H:10])[H:5],-6.4852
[C:0]([N+:1](=[O:2])[O-:3])([H:4])([H:5])[H:6].[O:7]>>[C:0]([N+:1](=[O:2])[O-:3])([H:5])[H:6].[H:4][O:7],22.3844
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],-20.9618
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7]([C:8]([C:9]([C:10]([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7]([H:18])([H:19])[C:8]([H:20])([H:21])[C:9]([H:22])([H:23])[C:10]1([H:24])[H:25])[H:11],38.3254
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([H:11])[H:12])([H:9])[H:10])[H:8])[H:7])[H:6]>>[C:0](#[C:1][C:2]1([H:7])[C:3]([H:8])[C:4]([H:9])([H:10])[C:5]1([H:11])[H:12])[H:6],138.03
[C:0]([O:1][C:2](=[O:3])[O:4][O:5][H:8])([H:6])[H:7].[O:9][O:10]>>[C:0]([O:1][C:2](=[O:3])[O:4][O:5][H:8])([H:6])([H:7])[O:9][O:10],0.0
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([O:10][O:11])([H:12])([H:13])[H:14]>>[C:0]([C:1]([O:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][O:11][O:10][C:9]([H:12])([H:13])[H:14],31.2758184
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([H:8])[H:9]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:4])[C:7]([H:3])([H:8])[H:9],-7.288528
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24],61.9734
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12],20.92
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[S:15]([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:16])[H:8])([H:6])[H:7].[S:15][H:17],66.1072
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[S:9]=[C:10]([C:11]([S:12][H:15])[H:14])[H:13]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:11]([C:10](=[S:9])[H:13])([S:12][H:15])[H:14],177.276
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([H:7])[H:8]>>[C:0]1([H:2])([H:3])[C:1]([H:4])([H:5])[C:6]1([H:7])[H:8],22.1334
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]=[S:12])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:11]([C:10](=[C:9]([H:13])[H:14])[H:15])=[S:12],59.4128
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1[C:6]2([H:16])[H:17].[C:18](=[C:19]([C:20]([C:21](=[C:22]([H:29])[H:30])[H:28])([H:26])[H:27])[H:25])([H:23])[H:24]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:26])[C:6]2([H:16])[H:17].[C:18](=[C:19]([C:20]([C:21](=[C:22]([H:29])[H:30])[H:28])[H:27])[H:25])([H:23])[H:24],24.6856
[C:0]([H:1])[H:2].[C:3]([O:4][H:7])([H:5])[H:6]>>[C:0]([H:1])([H:2])[H:7].[C:3](=[O:4])([H:5])[H:6],0.0
